### PR TITLE
[Merged by Bors] - feat(Order/Basic): simp lemmas about Subsingleton

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Basic.lean [hunk 1]
```diff
@@ -220,6 +220,14 @@ alias lt_of_eq_of_lt ← Eq.trans_lt
 alias lt_of_eq_of_lt' ← Eq.trans_gt
 #align eq.trans_gt Eq.trans_gt
 
+@[simp] lemma le_of_subsingleton [Subsingleton α] (a b : α) : a ≤ b ↔ True := by
+  cases Subsingleton.elim a b
+  simp
+
+@[simp] lemma not_lt_of_subsingleton [Subsingleton α] (a b : α) : a < b ↔ False := by
+  cases Subsingleton.elim a b
+  simp
```
Comment (eric-wieser) [inline Mathlib/Order/Basic.lean:229]: Is there any reason to keep the `↔`s? I'm pretty sure `simp_rw` and `simp` already know how to handle them, unless there's something special about inequalities; and they just add noise to the statement.
```suggestion
@[simp] lemma le_of_subsingleton [Subsingleton α] (a b : α) : a ≤ b := by
  cases Subsingleton.elim a b
  simp

@[simp] lemma not_lt_of_subsingleton [Subsingleton α] (a b : α) : ¬a < b := by
  cases Subsingleton.elim a b
  simp
```

File: Mathlib/Order/Basic.lean [hunk 2]
```diff
@@ -724,8 +732,7 @@ instance linearOrder (α : Type _) [LinearOrder α] : LinearOrder αᵒᵈ where
   decidableLT := (inferInstance : DecidableRel (λ a b : α => b < a))
 #align order_dual.linear_order OrderDual.linearOrder
 
-instance : ∀ [Inhabited α], Inhabited αᵒᵈ := λ [x: Inhabited α] => x
-
+instance : ∀ [Inhabited α], Inhabited αᵒᵈ := λ [x : Inhabited α] => x
```
Comment (eric-wieser) [inline Mathlib/Order/Basic.lean:735]:
```suggestion
instance : ∀ [Inhabited α], Inhabited αᵒᵈ := fun [x : Inhabited α] => x
```
since you're here
